2136-09-22 09:01:00 Physician Attending Progress Note
Chief Complaint: Hyponatremia
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   46 y/o m with HIV, HCV went to PCP, [**Name10 (NameIs) 4560**] [**Name11 (NameIs) **] in 120s, had n/v past 2
   months, admitted to [**Hospital1 **] Hop. Given IVF, but Na dropped to 115,
   transferred to [**Hospital1 **]. K was also noted to be elevated. Just finished few
   weeks of doxycycline for presumptive Lyme.
   On arrival he was found to have cachexia, VSS. all CN intact.
   24 Hour Events:
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Truvada, Norvir, Prezista, Aldactone, Omeprazole, Nadalol, Lactulose
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-9-22**] 09:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 78 (69 - 78) bpm
   BP: 105/48(62) {105/48(62) - 127/66(78)} mmHg
   RR: 13 (13 - 15) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                  60 mL
   PO:
                  60 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                    300 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -240 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ////
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL, jaundice
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
        [image002.jpg]
   Assessment and Plan
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 LIVER FUNCTION ABNORMALITIES
   1. Hyponatremia: SIADH vs. Cirrhosis vs. Adrenal insufficency
   -check cortisol level
   -check TSH
   -fluid restrict
   -appears euvolemic currently
   -holding aldactone
   2. HCV/ ? Cirrhosis:
   -uncle[**Name (NI) **] acute worsening
   -holding aldactone
   -RUQ U/S
   -cont. lactulose
   -get baseline LFTs
   3. nausea/vomiting/RUQ pain:
   -r/o adrenal insufficiency
   -check lipase
   4. Thrombocytopenia: suspect hypersplenism, r/o hemolysis
   5. FEN: Regular diet, 1500 cc fluid restrict
   6. sc hep
   7. ICU until Na stabilizes/improves
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2136-9-22**] 04:18 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   resident note, including the assessment and plan. I would emphasize and
   add the following points:  46 y/o m with HIV, HCV, recent diagnosis of
   ? Lyme ds treated with doxy transferred with significant hyponatremia
   (na 116).
   AF 80 117/71 100% RA
   Thin M, alert but confused, NAD, CTA
   Labs reviewed.  Na 116, K 5.3, cr 1.4 , wbc 13.9, plt 63, inr/ptt
   elevated, lfts increased, t bili 10.9
   CXR without focal process
   ISSUES INCLUDE:
   v      Hyponatermia,
   v      hyperkalemia,
   v      acute on CRI,
   v      metabolic acidosis, nongap
   v      leukocytosis,
   v      thrombocytopenia,
   v      anemia,
   v      coagulopathy,
   v      transminitis/congestive picture,
   v      HIV
   v      HCV
   Hyponatremia appears most c/w SIADH given urine osms 600, though u na
   of 36 is less c/w this.  ? related to medications (thiazide X 2 days),
   cirrhosis with relative hypovolemia.   Hyperkalemia further confusing
   the picture.    Agree with plan to treat hyponatremia w/ fluid
   restriction.  He appears minimally symptomatic, but he is confused and
   this could be from his hyponatremia verses a more chronic process such
   as HIV dementia/hepatic encephalopathy. Would consult renal for further
   input regarding his renal failure and hyponatremia and need for
   hypertonic saline.  TSH, cortisol and cxr are unremarkable.  ? hypoaldo
   given the hyperk, (verses med effect from aldactone). Consider endo
   consult pending renin/aldosterone results.  Eval ARF (baseline cr 0.9)
   with u/a, urine eos, consider renal u/s. Would monitor leukocytosis and
   pan cx if change in status. Would obtain additional OSH information
   regarding his prior work up and treatment for erlichia/lyme and
   babesiosis as there may be evidence of low level hemolysis  Check thick
   and thin smear for parasites, check DIC panel and follow h/h. keep type
   and cross. Has coagulopathy, thrombocytopenia, likely related to
   cirrhosis, splenomegally. Check RUQ u/s. Unclear etiology of his nongap
   acidosis--? Gi losses with ? h/o diarrhea vs RTA.  Review OSH records
   and contact his OSH doctors as [**Name5 (PTitle) 1811**] [**Name5 (PTitle) **] up and treatment is unclear.
   Remainder of plan as outlined in pulmonary fellow
s note.
   Patient is critically ill
   Total time: 40 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 215**] [**Last Name (NamePattern1) 216**], MD
   on:[**2136-9-22**] 17:00 ------

2136-09-23 07:45:00 Physician Resident Progress Note
Chief Complaint: Hyponatremia
   24 Hour Events:
   - Called pharmacy and confirmed home meds
   - Called [**Hospital3 **] and had recent labs faxed over
   - TSH and Cortisol were both normal
   - RUQ U/S was rescheduled for Monday.
   - Haptoglobin was < 20, Retic Ct increased to 6.3, LDH increased.
   Concerning for hemolysis, though Hct has remained stable.  Smear didn't
   show evidence of shistocytes
   - Na: 115 -> 120 with fluid restriction -> 116.  Started on hypertonic
   saline at 25 cc/h at 10 PM -> 119 -> 115
   - HIV meds not found to cause hyponatremia
   - Hypertonic saline increased to 35 cc/h
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2136-9-22**] 08:09 AM
   Heparin Sodium (Prophylaxis) - [**2136-9-22**] 08:33 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-9-23**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.7
C (98
   HR: 104 (71 - 109) bpm
   BP: 124/68(81) {102/51(64) - 144/76(87)} mmHg
   RR: 13 (11 - 18) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                    848 mL
                                                                    204 mL
   PO:
                                                                    840 mL
             TF:
   IVF:
                                                                      8 mL
                                                                    204 mL
   Blood products:
   Total out:
                                                                    800 mL
                                                                      0 mL
   Urine:
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     48 mL
                                                                    204 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///20/
   Physical Examination
   General: Alert, oriented, no acute distress, temporal wasting
   HEENT: Sclera icteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  + HSM, soft, non-tender, non-distended, bowel sounds present,
   no rebound tenderness or guarding,
   GU: no foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Neuro CN2-12 intact, 5/5 strength throughout, + asterixis
   Labs / Radiology
   29 K/uL
   9.8 g/dL
   105 mg/dL
   1.1 mg/dL
   20 mEq/L
   4.7 mEq/L
   23 mg/dL
   97 mEq/L
   115 mEq/L
   29.0 %
   10.8 K/uL
        [image002.jpg]
                             [**2136-9-22**]  07:44 AM
                             [**2136-9-22**]  07:05 PM
                             [**2136-9-23**]  03:20 AM
   WBC
   13.9
   10.8
   Hct
   33.5
   29.0
   Plt
   63
   29
   Cr
   1.4
   1.3
   1.1
   Glucose
   121
   148
   105
   Other labs: PT / PTT / INR:19.8/42.5/1.8, CK / CKMB / Troponin-T:124//,
   ALT / AST:64/95, Alk Phos / T Bili:134/7.8, Amylase / Lipase:/40,
   Albumin:1.9 g/dL, LDH:262 IU/L, Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:1.8
   mg/dL
   Imaging: CXR: No previous images. The heart is normal in size and the
   lungs are
   clear without vascular congestion or pleural effusion.
   Assessment and Plan
   In brief this is a 46 man with endstage HIV and HCV who presents with
   nausea and vomiting and hyponatremia of 115. He is found to have Uosm
   of 600, FeNa 0.3, UNa 36, after being given IVF at OSH. Also notable
   are elvated transaminases, elevated creatinine, hyperkalemia, mild
   megaloblastic anemia and thrombocytopenia.
   # Euvolemic hyponatremia: Since the patient was already given IVF at
   OSH, it is unclear whether he was euvolemic on initial presentation.
   Ddx includes: SIADH (source likley pain/nausea but unlikely to be
   pulmonary, intracranial or drugs), glucocorticoid deficiency,
   hypothyroidism, tea and toast/beer potomania. The initialpresentation
   raises concer for hypovolemic hyponatremia, given vomiting but
   apparently Na did not improve but got worse with IVF. This finding is
   expected in a patient with SIADH who had a Uosm of ~600 and is given
   NS. Pt is currently asymptomatic.
   - Free water restriction
   - if no response/+sx then hypertonic saline at 20 cc/hr
   - TSH, random cortisol level followed by ACTH stim test
   # ARF: Baseline unknown. Cre 1.1 at OSH. Ample UOP.
   - monitor
   - hold diuretics
   # Hyperkalemia: s/p kayexilate in ED.
   - monitor
   - hold spironolactone
   # Transaminase elevation, elevated bilirubin, h/o HCV: Bili and INR
   raise concern for depressed synthetic function. Thrombocytopenia
   suggest hypersplenism and portal HTN. Evidence of hepatic
   encephalopathy.
   - RUQ US to eval for cirrhosis
   - monitor for gi bleed
   - trend bili, inr and albumin
   # Nausea, vomiting, RUQ: Likely doxy effect vs hepatitis vs HAART
   effect. No blood in vomitus to suggest UGIB. Resolved.
   - US
   - lipase
   # Thrombocytopenia: Dx hypersplenism vs HIV vs TTP (unlikley).
   Apparently at OSH Plt 58 and HCT 32.
   - smear, LDH, hapto
   - B12 folate
   # Megaloblastic anemia: Dx HIV vs vitamin deficiency. HCT stable.
   - folate b12
   # HIV: Currently on Truvada, Norvir, Prezista. Unknown recent CD4
   count.
   FEN: fluid restrict/ice chips, replete electrolytes, regular diet
   Prophylaxis: Subutaneous heparin
   Access: peripheral 1x18g
   Code:  Full (discussed with patient)
   Communication: Patient
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2136-9-22**] 04:18 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2136-09-23 11:23:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   46 y/o m with HIV, HCV, possible cirrhosis p/w n/v and hyponatremia and
   AMS. Urine studies c/w SIADH, not significantly improved with fluid
   restriction, started on hypertonic saline yesterday. Renal consulted.
   Question of hemolysis on labs.
   24 Hour Events:
   TSH and cortisol were normal.
   Increased hypertonic saline to 35 cc/h from 25 cc/h.
   None of HAART meds likely to cause SIADH.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2136-9-22**] 08:33 PM
   Omeprazole (Prilosec) - [**2136-9-23**] 08:06 AM
   Other medications:
   Nadalol, omeprazole, truvada, darunapir, ritonavir
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-9-23**] 11:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.9
C (98.4
   HR: 99 (78 - 109) bpm
   BP: 96/74(80) {96/53(70) - 144/76(87)} mmHg
   RR: 18 (12 - 18) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                    848 mL
                                                                    557 mL
   PO:
                                                                    840 mL
                                                                    240 mL
   TF:
   IVF:
                                                                      8 mL
                                                                    317 mL
   Blood products:
   Total out:
                                                                    800 mL
                                                                    450 mL
   Urine:
                                                                    500 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     48 mL
                                                                    107 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///20/
   Physical Examination
   Patient awake, alert
   Lungs: CTA
   CV: RRR,  S1 and S2
   Abd:  soft, NT
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.8 g/dL
   29 K/uL
   105 mg/dL
   1.1 mg/dL
   20 mEq/L
   4.7 mEq/L
   23 mg/dL
   97 mEq/L
   115 mEq/L
   29.0 %
   10.8 K/uL
        [image002.jpg]
                             [**2136-9-22**]  07:44 AM
                             [**2136-9-22**]  07:05 PM
                             [**2136-9-23**]  03:20 AM
   WBC
   13.9
   10.8
   Hct
   33.5
   29.0
   Plt
   63
   29
   Cr
   1.4
   1.3
   1.1
   Glucose
   121
   148
   105
   Other labs: PT / PTT / INR:19.8/42.5/1.8, CK / CKMB / Troponin-T:124//,
   ALT / AST:64/95, Alk Phos / T Bili:134/7.8, Amylase / Lipase:/40,
   Albumin:1.9 g/dL, LDH:262 IU/L, Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:1.8
   mg/dL
   Assessment and Plan
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 LIVER FUNCTION ABNORMALITIES
   Plan:
   1. Hyponatremia:
   -recheck serum and urine osm and UNa
   -fluid restrict to 1500 cc
   -cont hypertonic saline, follow sodium
   2. Hyperkalemia:
   -possibly from spironolactone
   -question hemolysis
   3. Anemia: Possible hemolysis, ? TTP
   -consult Heme
   -review smear
   4. ?Cirrhosis: LFTs improving
   -RUQ U/S
   5. Thrombocytopenia:
   -consult Heme ? TTP
   -possibly from hypersplenism
   6. ARF: Cr improved to baseline
   -check urine lytes, renal following
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2136-9-22**] 04:18 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2136-09-24 07:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 46 man with endstage HIV and HCV who presents with
   nausea and vomiting and hyponatremia of 115. He is found to have Uosm
   of 600, FeNa 0.3, UNa 36, after being given IVF at OSH. Also notable
   are elvated transaminases, elevated creatinine, hyperkalemia, mild
   megaloblastic anemia and thrombocytopenia.
   24 Hour Events:
   [**9-23**]:
   - sodium didn't respond well to hypertonic saline and planned fluid
   restriction, but patient appeared to actually be adherent to fluid
   restriction, so unclear whey sodium didn't respond well
   - stopped hypertonic saline in morning and restarted in evening per
   renal
   - clarification on admission note--initially noted as a patient being
   considered for hospice but patient is not considering hospice (didn't
   even know what it meant)
   - heme-onc consult for low haptoglobin, high retics -> likely chronic
   hemolysis, started folate, didn't think it was TTP (no schistocytes)
   - found out that patient was treated for babesiosis, lyme, and
   ehrlichiosis in [**2136-7-25**] at [**Hospital3 **] (notes in chart)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2136-9-23**] 08:06 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-9-24**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.8
C (98.2
   HR: 104 (73 - 107) bpm
   BP: 107/52(65) {96/52(65) - 134/83(90)} mmHg
   RR: 21 (12 - 23) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                  1,234 mL
                                                                    120 mL
   PO:
                                                                    800 mL
             TF:
   IVF:
                                                                    434 mL
                                                                    120 mL
   Blood products:
   Total out:
                                                                    670 mL
                                                                    600 mL
   Urine:
                                                                    670 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    564 mL
                                                                   -480 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///20/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   34 K/uL
   9.6 g/dL
   93 mg/dL
   1.1 mg/dL
   20 mEq/L
   4.9 mEq/L
   17 mg/dL
   97 mEq/L
   122 mEq/L
   29.4 %
   6.6 K/uL
        [image002.jpg]
                             [**2136-9-22**]  07:44 AM
                             [**2136-9-22**]  07:05 PM
                             [**2136-9-23**]  03:20 AM
                             [**2136-9-24**]  03:43 AM
   WBC
   13.9
   10.8
   6.6
   Hct
   33.5
   29.0
   29.4
   Plt
   63
   29
   34
   Cr
   1.4
   1.3
   1.1
   1.1
   Glucose
   121
   148
   105
   93
   Other labs: PT / PTT / INR:17.7/37.5/1.6, CK / CKMB / Troponin-T:124//,
   ALT / AST:57/71, Alk Phos / T Bili:135/7.3, Amylase / Lipase:/40,
   D-dimer:3055 ng/mL, Fibrinogen:183 mg/dL, Albumin:1.9 g/dL, LDH:208
   IU/L, Ca++:7.9 mg/dL, Mg++:1.7 mg/dL, PO4:1.7 mg/dL
   Fluid analysis / Other labs: Source: CVS
   Other Urine Chemistry:
   UreaN:935
   Creat:98
   Na:74
   Osmolal:652
   Assessment and Plan
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 LIVER FUNCTION ABNORMALITIES
   In brief this is a 46 man with endstage HIV and HCV who presents with
   nausea and vomiting and hyponatremia of 115. He is found to have Uosm
   of 600, FeNa 0.3, UNa 36, after being given IVF at OSH. Also notable
   are elvated transaminases, elevated creatinine, hyperkalemia, mild
   megaloblastic anemia and thrombocytopenia.
    # Hyponatremia:  The patient was initially started on fluid
   restriction, and his Na increased from 116 to 120.  However, with
   further fluid restriction, his Na decreased to 116.  Renal was
   consulted and recommended hypertonic saline solution at 25 cc/h.  His
   Na initially increased from 116 to 119, however, this again decreased
   to 115 without any further adjustments in his saline infusion.  Uosm of
   ~600 and is given NS. Pt is currently asymptomatic. Na now 120.
   - hold hypertonic sodium for now
   - TID Na check while on hypertonic sodium
   - fluid restrict to 750ml
   - appreciate renal recs
   # ARF: Baseline unknown. Cre 1.1 at OSH. Ample UOP.  Creatinine
   decreased from 1.3 to 1.1 today.
   - monitor
   - hold diuretics
   # Hyperkalemia: s/p kayexilate in ED.
   - monitor
   - hold spironolactone
   # Transaminase elevation, elevated bilirubin, h/o HCV: Bili and INR
   raise concern for depressed synthetic function. Thrombocytopenia
   suggest hypersplenism and portal HTN. Evidence of hepatic
   encephalopathy.
   - f/u results of RUQ US to eval for cirrhosis
   - monitor for gi bleed
   - trend bili, inr and albumin
    # Thrombocytopenia: Dx hypersplenism vs HIV vs TTP (unlikley).
   Apparently at OSH Plt 58 and HCT 32.   Platelets decreased today, and
   the patient has evidence of hemolysis on labs: elevated LDH,
   reticulocyte count, decreased haptoglobin, though no schistocytes on
   smear.
   There are no signs of a [**Doctor First Name 3468**] such as TTP on his smear, and labs are not
   consistent with DIC.
   He does have signs of chronic hemolysis, with a persistently elevated
   LDH, low haptoglobin, and a reticulocytosis.  Parasite smear negative x
   3.
   - folate supplementation
   # Coagulopathy: PTT: 37.5  INR: 1.6. Ddx poor synthetic dysfunction
   versus dietary. Unlikely DIC.
   - course of vitamin K (e.g. 10 mg PO daily for three days)
   # Megaloblastic anemia: Dx HIV vs vitamin deficiency. HCT stable.
   Folate and B12 were normal.  Most likely [**2-27**] reticulocytosis.
   # HIV: CD4 count 380
   - Currently on Truvada, Norvir, Prezista,
   ICU Care
   Nutrition: fluid restiction 750, regular diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2136-9-22**] 04:18 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   Comments:
   Communication:  Comments:
   Code status:  full
   Disposition: call out to floor today

2136-09-24 11:49:00 Physician Attending Progress Note
Chief Complaint: hyponatremia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   46M with HIV, HCV, presents with hyponatremia, now asymptomatic but
   persistent low sodium:
   24 Hour Events:
   -hypertonic na restarted per renal
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   haart, lactulose, nadolol, mvi, fa
   Changes to medical and family history:
   -clarified: NOT hospice;
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever
   Cardiovascular: No(t) Chest pain
   Nutritional Support: No(t) NPO
   Respiratory: No(t) Cough
   Genitourinary: No(t) Foley
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2136-9-24**] 11:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37
C (98.6
   HR: 96 (73 - 107) bpm
   BP: 115/74(84) {107/52(65) - 134/83(90)} mmHg
   RR: 13 (12 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  1,234 mL
                                                                    380 mL
   PO:
                                                                    800 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    434 mL
                                                                    140 mL
   Blood products:
   Total out:
                                                                    670 mL
                                                                    600 mL
   Urine:
                                                                    670 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    564 mL
                                                                   -220 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///20/
   Physical Examination
   General Appearance: No(t) Well nourished, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): , Movement: Not assessed, Tone: Not assessed,
   slow
   Labs / Radiology
   9.6 g/dL
   34 K/uL
   93 mg/dL
   1.1 mg/dL
   20 mEq/L
   4.9 mEq/L
   17 mg/dL
   97 mEq/L
   120 mEq/L
   29.4 %
   6.6 K/uL
        [image002.jpg]
                             [**2136-9-22**]  07:44 AM
                             [**2136-9-22**]  07:05 PM
                             [**2136-9-23**]  03:20 AM
                             [**2136-9-24**]  03:43 AM
   WBC
   13.9
   10.8
   6.6
   Hct
   33.5
   29.0
   29.4
   Plt
   63
   29
   34
   Cr
   1.4
   1.3
   1.1
   1.1
   Glucose
   121
   148
   105
   93
   Other labs: PT / PTT / INR:17.7/37.5/1.6, CK / CKMB / Troponin-T:124//,
   ALT / AST:57/71, Alk Phos / T Bili:135/7.3, Amylase / Lipase:/40,
   D-dimer:3055 ng/mL, Fibrinogen:183 mg/dL, Albumin:1.9 g/dL, LDH:208
   IU/L, Ca++:7.9 mg/dL, Mg++:1.7 mg/dL, PO4:1.7 mg/dL
   Imaging: cxr: clear
   Assessment and Plan
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 LIVER FUNCTION ABNORMALITIES
   46M with HIV, HCV, presents with hyponatremia, now asymptomatic but
   persistent low sodium.  Improved Na after another infusion of
   hypertonic saline overnight. Etiology remains unclear, likely related
   to liver disease.
   For management will continue to restrict access to free water. [**Month (only) 51**] need
   to start lasix and aldactone. No indication for hypertonic saline at
   this time.
   HIV care is stable and ongoing. Need to contact primary HIV physician
   re prophylaxis, etc.
   ICU Care
   Nutrition: free water restrict down to 750 ml;
   Glycemic Control:
   Lines:
   18 Gauge - [**2136-9-22**] 04:18 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes